US07820658B2
2-Amino-4-phenyl-thieno[2,3-d]pyrimidine-6-carboxylic acid ethylamide
O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.380 g, 1.0 mmol) was added to 2-amino-4-phenyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (0.187 g, 0.69 mmol). This mixture was suspended in dimethylformamide (DMF) (5.0 ml) and diisopropylethylamine (0.696 ml; 4.0 mmol) added to afford a yellow solution. Diethylamine hydrochloride (0.122 g; 5.0 mmol) was added and the reaction mixture was heated for ten minutes at 100° C. in a sealed vial in a microwave synthesiser. DMF was removed in vacuo and the residue was partitioned between ethyl acetate (30 ml) and water (30 ml). The phases were separated and the organic phase was washed with saturated sodium chloride solution and dried over sodium sulphate. Mixture was filtered and the filtrate solvents were removed in vacuo to leave a yellow solid which was adsorbed onto silica gel and purified by flash chromatography on silica gel (20 g), eluting with a solvent gradient of 15 to 50% ethyl acetate in hexane. This affords 2-amino-4-phenyl-thieno[2,3-d]pyrimidine-6-carboxylic acid ethylamide as a pale yellow solid (0.051 g; 25%).

reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.0 mmol, 0.380 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 2-amino-4-phenyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.69 mmol, 0.187 g | NC=1N=C(C2=C(N1)SC(=C2)C(=O)O)C2=CC=CC=C2 | C13H9N3O2S
reactant | diisopropylethylamine | 4.0 mmol, 0.696 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Diethylamine hydrochloride | 5.0 mmol, 0.122 g | Cl.C(C)NCC
solvent | dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | 2-Amino-4-phenyl-thieno[2,3-d]pyrimidine-6-carboxylic acid ethylamide | C(C)NC(=O)C1=CC2=C(N=C(N=C2C2=CC=CC=C2)N)S1 | C15H14N4OS
